US05872144
1-(2-Chloroethoxy)-2-methyl-3-aminobenzene
A mixture of 1-(2-chloroethoxy)-2-methyl-3-nitrobenzene (10.7 g, 50 mmol) in ethanol (200 mL) containing 500 mg of 5% palladium on carbon was hydrogenated at 50 psi for 4 h. The catalyst was filter through Solka Floc and the solvent removed under vacuum to afford 9.1 g (98.8%) a yellow oil: 1H NMR (CDCl3) δ 2.76 (3H, s), 3.92 (2H, t, J=5.9 Hz), 4.40 (2H, t, J=5.9 Hz), 6.70 (1H, d, J=), 7.46 (1H, app t, J=), 8.04 (1H, d, J=), 8.24 (1H, s).

reactant | 1-(2-chloroethoxy)-2-methyl-3-nitrobenzene | 50 mmol, 10.7 g | ClCCOC1=C(C(=CC=C1)[N+](=O)[O-])C | C9H10ClNO3
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | 1-(2-Chloroethoxy)-2-methyl-3-aminobenzene | 9.1 g, 98.8% | ClCCOC1=C(C(=CC=C1)N)C | C9H12ClNO
